US06008213
a) Methyl 2-Benzoyl-5-methoxyphenylacetate
Methyl 3-methoxy-phenylacetate was treated with benzoyl chloride and aluminum chloride as described in J. Chem. Soc., Perkin Trans I 1991, 171 to give the title compound.

reactant | Methyl 3-methoxy-phenylacetate | COC=1C=C(C=CC1)CC(=O)OC | C10H12O3
reactant | benzoyl chloride | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | aluminum chloride | [Cl-].[Al+3].[Cl-].[Cl-]
product | Methyl 2-Benzoyl-5-methoxyphenylacetate | C(C1=CC=CC=C1)(=O)C1=C(C=C(C=C1)OC)CC(=O)OC | C17H16O4
